US07223791B2
A mixture of methyl 2-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]benzoate (1.50 g), 1 M aqueous sodium hydroxide solution (9.0 ml), tetrahydrofuran (18 ml) and methanol (9 ml) was heated under reflux for 1 hr. After cooling, 1 M hydrochloric acid was added to acidify the mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give 2-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid (1.26 g, yield 87%) as a colorless amorphous solid. NMR (CDCl3) δ: 1.35 (9H, s), 7.52 (2H, d, J=8.8 Hz), 7.67–7.76 (4H, m), 7.96–8.04 (3H, m), 8.15–8.20 (1H, m).

reactant | methyl 2-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]benzoate | 1.50 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NN=C(O1)C1=C(C(=O)OC)C=CC=C1 | C20H20N2O3
reactant | sodium hydroxide | 1 M, 9.0 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 9 ml | CO | CH4O
product | 2-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid | 1.26 g, yield 87% | C(C)(C)(C)C1=CC=C(C=C1)C1=NN=C(O1)C1=C(C(=O)O)C=CC=C1 | C19H18N2O3
